US09079866B2
4′-(5-Aminopyrazin-2-yl)-3′-fluoro-N-(3-hydroxypropyl)biphenyl-2-sulfonamide
The title compound was prepared in a manner similar to that described in Example 448 using 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine and 2-bromo-N-(3-hydroxypropyl)benzenesulfonamide. MS (ESI): mass calcd. for C19H19FN4O3S, 402.12; m/z found, 403.1 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.37 (d, J=1.2, 1H), 8.30 (s, 1H), 8.08-8.03 (m, 1H), 8.01-7.96 (m, 1H), 7.70-7.63 (m, 1H), 7.62-7.56 (m, 1H), 7.42-7.32 (m, 1H), 7.36-7.28 (m, 2H), 3.51 (t, J=6.2, 2H), 2.88 (t, J=7.0, 2H), 1.65-1.54 (m, 2H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 2-bromo-N-(3-hydroxypropyl)benzenesulfonamide | BrC1=C(C=CC=C1)S(=O)(=O)NCCCO | C9H12BrNO3S
product | 4′-(5-Aminopyrazin-2-yl)-3′-fluoro-N-(3-hydroxypropyl)biphenyl-2-sulfonamide | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)NCCCO)F | C19H19FN4O3S
